US05498609
To 6-nitronicotinic acid (3.5 g) is added thionyl chloride (50 ml), and the mixture is refluxed for three hours, and evaporated to remove thionyl chloride to give 6-nitronicotinoyl chloride, which is added with stirring to a solution of 7-chloro-5-oxo-2,3,4,5-tetrahydro-1H-benzazepine (3.4 g) in pyridine (50 ml) under ice-cooling. The mixture is stirred at room temperature overnight. To the reaction mixture is added water, and the mixture is extracted with ethyl acetate. The extract is washed successively with 0.1N aqueous hydrochloric acid and water, and dried over magnesium sulfate. The resultant is evaporated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography to give 7-chloro-5-oxo-1-(6-nitronicotinoyl)-2,3,4,5-tetrahydro-1H-benzazepine (4.9 g) as colorless amorphous.

reactant | 6-nitronicotinic acid | 3.5 g | [N+](=O)([O-])C1=NC=C(C(=O)O)C=C1 | C6H4N2O4
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-nitronicotinoyl chloride | [N+](=O)([O-])C1=NC=C(C(=O)Cl)C=C1 | C6H3ClN2O3
